US03947434
A. 3,4-Diisoamyloxynitrobenzene
To a mixture of 300 ml. of conc. HNO3 and 300 ml. of H2O was added dropwise 90 g. (0.36 m.) of o-diisoamyloxybenzene while maintaining a temperature of 19°-21°C. Stirring was continued for an additional 60 minutes at 19°-21°C, then the solution was poured into 3 liters of ice. The crude product was collected by filtration, washed with cold H2O and airdried to give 90 g. It was recrystallized from 300 ml. of MeOH to give 25.5 g. A chromatographic column, 32 inches long with O.D. 3/4 inch, was packed with 20 inches of neutral alumina. The 25 g. of crude product was dissolved in a 250 ml. mixture of 50/50 CHCl3 and CCl4. After the mixture was placed on the column, it was washed several times with the same solvent mixture. The first fraction, very light yellow in color, was collected and concentrated to dryness in vacuo to yield 15 g. m.p. 44°-47°C.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | H2O | O | H2O
reactant | o-diisoamyloxybenzene | C(CC(C)C)OC1=C(C=CC=C1)OCCC(C)C | C16H26O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,4-Diisoamyloxynitrobenzene | C(CC(C)C)OC=1C=C(C=CC1OCCC(C)C)[N+](=O)[O-] | C16H25NO4
